US06225311B1
A solution of 2N sodium hydroxide (11.3 mL, 22.7 mmol) was added to D-(−)-penicillamine (2.5 g, 16.8 mmol) at 0° C. Once all the solid was dissolved, a solution of 3-bromopropanol (3.03 g, 21.8 mmol) in ethanol (17 mL) was slowly added at 0° C. and the resulting mixture was stirred for 15 h at room temperature. The mixture was treated with 1N hydrochloric acid until pH is ˜6 and the solvents were removed to obtain (2S)-2-amino-3-[(3-hydroxypropyl)sulfanyl]-3-methylbutanoic acid as a white solid. This solid was used for the next step without further purification; Electrospray Mass Spec 208.1 (M+H)+

reactant | sodium hydroxide | 22.7 mmol, 2N, 11.3 mL | [OH-].[Na+]
reactant | D-(−)-penicillamine | 16.8 mmol, 2.5 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | 3-bromopropanol | 21.8 mmol, 3.03 g | BrCCCO | C3H7BrO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 17 mL | C(C)O | C2H6O
product | (2S)-2-amino-3-[(3-hydroxypropyl)sulfanyl]-3-methylbutanoic acid | N[C@@H](C(=O)O)C(C)(C)SCCCO | C8H17NO3S
